US07893056B2
[(2R)-2-(Cyclopentylmethyl)-3-(2-{5-fluoro-6-[(7S)-7-hydroxy-5-azaspiro[2.4]hept-5-yl]-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (91 mg, 0.202 mmol) was dissolved in a mixture of AcOH/H2O (10 mL, 4:1) and stirred at RT until LCMS indicated completion of the deprotection (overnight). The reaction mixture was concentrated to dryness under vacuum and was purified by RP-HPLC to provide ((2R)-2-(cyclopentylmethyl)-3-{2-[5-fluoro-6-(7-hydroxy-5-azaspiro[2.4]hept-5-yl)-2-methyl-4-pyrimidinyl]hydrazino}-3-oxopropyl)hydroxyformamide (25 mg, 27%). LCMS: (M+H)+: 451.2.

reactant | [(2R)-2-(Cyclopentylmethyl)-3-(2-{5-fluoro-6-[(7S)-7-hydroxy-5-azaspiro[2.4]hept-5-yl]-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.202 mmol, 91 mg | C1(CCCC1)C[C@H](CN(C=O)OC1OCCCC1)C(=O)NNC1=NC(=NC(=C1F)N1CC2(CC2)[C@@H](C1)O)C | C26H39FN6O5
solvent | AcOH H2O | 10 mL | CC(=O)O.O
product | ((2R)-2-(cyclopentylmethyl)-3-{2-[5-fluoro-6-(7-hydroxy-5-azaspiro[2.4]hept-5-yl)-2-methyl-4-pyrimidinyl]hydrazino}-3-oxopropyl)hydroxyformamide | 25 mg, 27% | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)N1CC2(CC2)C(C1)O)C | C21H31FN6O4
